US05008263
7,8-Dichloro-2-hydrazino-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-3H-[1,5]benzodiazepine
A mixture of 7,8-dichloro-2,3-dihydro-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-thione (452 mg, 1.0 mmol), hydrazine hydrate (100 mg, 2 mmol) and red mercuric oxide (217 mg, 1.0 mmol) in n-butanol was heated at 100° C. for 30 minutes. The mixture was diluted with methanol (300 ml), filtered through Arbocel filter aid and the filtrate was concentrated under reduced pressure. The crude product was used directly for Example 32.

reactant | 7,8-dichloro-2,3-dihydro-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-thione | 1.0 mmol, 452 mg | ClC1=CC2=C(NC(CC(=N2)C2=CC=C(C=C2)N2C(=NC=3C=NC=CC32)C)=S)C=C1Cl | C22H15Cl2N5S
reactant | hydrazine hydrate | 2 mmol, 100 mg | O.NN
solvent | n-butanol | C(CCC)O | C4H10O
solvent | methanol | 300 ml | CO | CH4O
product | 7,8-Dichloro-2-hydrazino-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-3H-[1,5]benzodiazepine | ClC1=CC2=C(N=C(CC(=N2)C2=CC=C(C=C2)N2C(=NC=3C=NC=CC32)C)NN)C=C1Cl | C22H17Cl2N7
